US06403601B1
c) Methyl 3-hydroxy-5,6,7,8-tetrahydro-1-naphthalenecarboxylate
A mixture of methyl 3-hydroxy-1-naphthalenecarboxylate (5.77 g, 28.5 mmol) and 10% Pd/C (1.57 g) in HOAc (140 mL) was hydrogenated on a Parr apparatus at 60° C., and 50 psi for 21 h. After filtration through a pad of diatomaceous earth the solvent was removed in vacuo and the residue treated with water and extracted with EtOAc (3×50 mL). The combined organic layers were washed with water, dried (MgSO4) and concentrated to yield product as a yellow oil (5.24 g, 89%). 1H NMR (CDCl3) δ 7.20 (d, 1H), 6.73 (d, 1H), 3.86 (s, 3H), 2.94 (d, 2H), 2.76 (d, 2H), 1.74 (m, 4H); MS m/z 205 (M−H).

reactant | methyl 3-hydroxy-1-naphthalenecarboxylate | 28.5 mmol, 5.77 g | OC=1C=C(C2=CC=CC=C2C1)C(=O)OC | C12H10O3
solvent | HOAc | 140 mL | CC(=O)O | C2H4O2
catalyst | Pd/C | 1.57 g | [Pd] | Pd
product | Methyl 3-hydroxy-5,6,7,8-tetrahydro-1-naphthalenecarboxylate | 5.24 g, 89% | OC=1C=C(C=2CCCCC2C1)C(=O)OC | C12H14O3
